US08471005B2
2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (87.49 mg, 0.0003045 mol), N,N-Diisopropylethylamine (0.175 mL, 0.00100 mol) and 6-amino-1′-methyl-spiro(2H-1-benzopyran-2,4′-piperidine) (0.141 g, 0.000609 mol) were dissolved in 1-Methoxy-2-propanol (0.350 mL, 0.00358 mol) and the reaction was irradiated at 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 17.67 mg of 7-(2-methoxy-phenyl)-pyrrolo(2,1-f)(1,2,4)triazin-2-yl-6-amino-1′-methyl-spiro(2H-1-benzopyran-2,4′-piperidine) as a lyophilized powder. (M+H)=456.1. 1H NMR (400 MHz, DMSO, d6) δ 9.19 (s, 1H), 8.91 (s, 1H), 7.81 (d, 1H, J=7.24 Hz), 7.57 (m, 1H), 7.45 (m, 1H), 7.34 (m, 1H), 7.21 (m, 1H), 7.11 (m, 1H), 6.90 (d, 2H, J=7.65 Hz), 6.70 (d, 1H, J=8.56 Hz), 3.79 (s, 3H), 3.33 (m, 2H), 3.18 (m, 2H), 2.83 (m, 3H), 2.62 (m, 2H), 1.92 (m, 2H), 1.79 (m, 4H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0003045 mol, 87.49 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-Diisopropylethylamine | 0.00100 mol, 0.175 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-amino-1′-methyl-spiro(2H-1-benzopyran-2,4′-piperidine) | 0.000609 mol, 0.141 g | NC=1C=CC2=C(C=CC3(CCN(CC3)C)O2)C1 | C14H18N2O
reactant | 1-Methoxy-2-propanol | 0.00358 mol, 0.350 mL | COCC(C)O | C4H10O2
product | 7-(2-methoxy-phenyl)-pyrrolo(2,1-f)(1,2,4)triazin-2-yl-6-amino-1′-methyl-spiro(2H-1-benzopyran-2,4′-piperidine) | 17.67 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)C2N(CCC1(C2)OC2=C(C=C1)C=C(C=C2)N)C | C27H27N5O2
